US08563565B2
(2) Synthesis of 4-(4-bromo-3,5-dimethylphenyl)-3,6-dihydro-2H-pyran
Potassium carbonate (1.99 g) and Pd(dppf)Cl2-DCM complex (196 mg) were added to a solution of 4-bromo-3,5-dimethylphenyl trifluoromethanesulfonate (1.6 g) and 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester (CAS No. 287944-16-5) (1.11 g) in DMF (16 mL). The reaction mixture was stirred at 85° C. for four hours. The reaction mixture was returned to room temperature, and the reaction mixture was then concentrated under reduced pressure. MTBE, water and brine were added to the residue, and the organic layer was separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 2%) to give the title compound (747 mg).

reactant | Potassium carbonate | 1.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-3,5-dimethylphenyl trifluoromethanesulfonate | 1.6 g | FC(S(=O)(=O)OC1=CC(=C(C(=C1)C)Br)C)(F)F | C9H8BrF3O3S
reactant | 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester | O1CCC(=CC1)B1OC(C)(C)C(C)(C)O1 | C11H19BO3
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | 4-(4-bromo-3,5-dimethylphenyl)-3,6-dihydro-2H-pyran | 747 mg | BrC1=C(C=C(C=C1C)C=1CCOCC1)C | C13H15BrO
